US03987047
2,3,4,5-Tetrahydro-11-methyl-1H-2-azepino[4,3-b]quinoline-carboxylic acid ethyl ester hydrochloride was prepared from 2,3,4,5-tetrahydro-11-methyl-1H-azepino[4,3-b]quinoline and ethyl chloroformate analogous to Example 63.

reactant | 2,3,4,5-tetrahydro-11-methyl-1H-azepino[4,3-b]quinoline | CC1=C2C(=NC=3C=CC=CC13)CCCNC2 | C14H16N2
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | 2,3,4,5-Tetrahydro-11-methyl-1H-2-azepino[4,3-b]quinoline-carboxylic acid ethyl ester hydrochloride | Yield: 58% | Cl.C(C)OC(=O)N1CC=2C(=NC=3C=CC=CC3C2C)CCC1 | InChI=1S/C17H20N2O2.ClH/c1-3-21-17(20)19-10-6-9-16-14(11-19)12(2)13-7-4-5-8-15(13)18-16;/h4-5,7-8H,3,6,9-11H2,1-2H3;1H
